US07973169B2
36) N-[4-(2-Methoxy-phenyl)-thiazol-2-yl]-benzamide
4-(2-Methoxy-phenyl)-thiazol-2-ylamine (41.3 mg, 0.200 mmol) and benzoyl chloride (28.1 mg, 0.200 mmol) were dissolved in 1 mL of pyridine. The reaction mixture was stirred at room temperature overnight and then purified by reverse-phase preparative liquid chromatography (11.4 mg, 0.0367 mmol, 18.4%). ESI-MS m/z calc. 310.1, found 311.2 (M+1)+ Retention time 3.55 minutes.

reactant | 4-(2-Methoxy-phenyl)-thiazol-2-ylamine | 0.200 mmol, 41.3 mg | COC1=C(C=CC=C1)C=1N=C(SC1)N | C10H10N2OS
reactant | benzoyl chloride | 0.200 mmol, 28.1 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-(2-Methoxy-phenyl)-thiazol-2-yl]-benzamide | COC1=C(C=CC=C1)C=1N=C(SC1)NC(C1=CC=CC=C1)=O | C17H14N2O2S
